US07732596B2
4-(2-Phenylethyl)benzo[b]thiophene
To a solution of 4-[(E)-2-phenylvinyl]benzo[b]thiophene (0.56 g) and triethyl amine (2.63 mL) in tetrahydrofuran (25 mL) was added 2,4,6-triisopropylbenzenesulfonylhydrazide (5 g), and the mixture was refluxed overnight under an argon atmosphere. After the reaction mixture was cooled to room temperature, 2 mol/L hydrochloric acid was added to the mixture, and the mixture was stirred for 10 minutes. The mixture was poured into water, and the mixture was extracted with diethyl ether. The extract was washed with water and brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane) to give a mixture of the starting material and the title compound (0.43 g). This mixture was dissolved in triethylamine (2.04 g) and tetrahydrofuran (18 mL), and 2,4,6-triisopropylbenzenesulfonylhydrazide (3.28 g) was added to the solution, and the mixture was refluxed overnight under an argon atmosphere. The reaction mixture was cooled to room temperature and 2 mol/L hydrochloric acid was added to the mixture, and the mixture was stirred for 10 minutes. The mixture was poured into water, and the mixture was extracted with diethyl ether. The extract washed with water and brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane) to give the title compound (0.4 g).

reactant | 4-[(E)-2-phenylvinyl]benzo[b]thiophene | 0.56 g | C1(=CC=CC=C1)/C=C/C1=CC=CC=2SC=CC21 | C16H12S
reactant | triethyl amine | 2.63 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
reactant | water | O | H2O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-(2-Phenylethyl)benzo[b]thiophene | 0.43 g | C1(=CC=CC=C1)CCC1=CC=CC=2SC=CC21 | C16H14S
